US09062015B2
FS607: (2-{-4-[6-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazin-1-ylmethyl}cyclopropyl)methanol
100 mg (0.21 mmol) of 2-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazin-1-ylmethyl}cyclopropanecarboxylic acid ethyl ester is dissolved in 4 ml of THF, and 1.05 ml (1.05 mmol) of diisobutylaluminium hydride (1.0 M in THF) are added. The reaction mixture is stirred at room temperature under nitrogen atmosphere for 18 h. Water is added to the reaction mixture, which is then briefly stirred, ethyl acetate is added, and the mixture is filtered through Celite. The filter cake is washed with ethyl acetate and methanol, and the mother liquor is evaporated. The residue is purified by column chromatography on silica gel.

reactant | 2-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazin-1-ylmethyl}cyclopropanecarboxylic acid ethyl ester | 0.21 mmol, 100 mg | C(C)OC(=O)C1C(C1)CN1CCN(CC1)C1=NC(=CC=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C30H41N3O2
reactant | diisobutylaluminium hydride | 1.05 mmol, 1.0 M, 1.05 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (2-{-4-[6-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazin-1-ylmethyl}cyclopropyl)methanol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCN(CC1)CC1C(C1)CO)C | C28H39N3O
